US07338959B2
2-[4-(4-{[2-(4-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-ethanesulfonic acid methylamide hydrochloride
The title compound was prepared following the procedure of example two with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (99 mg, 0.25 mmol) and 2-(4-amino-phenyl)-ethanesulfonic acid methylamide (54 mg, 0.25 mmol) to give the desired product as a white solid (90 mg, 59%). 1H NMR (300 MHz, d6-DMSO) δ 9.04 (s, 1H), 7.68-7.75 (m, 3H), 7.41-7.46 (m, 3H), 7.23 (d, J=8.1 Hz, 1H), 7.08-7.17 (m, 4H), 6.94 (q, J=5.1 Hz, 1H), 6.83 (dd, J=8.1 and 1.5 Hz, 1H), 5.59 (d, J=6.0 Hz, 1H), 4.57 (d, J=5.4 Hz, 2H), 3.56 (s, 3H), 3.41 (s, 3H), 3.20-3.26 (m, 2H), 2.83-2.88 (m, 2H), 2.59 (d, J=5.1 Hz, 3H). MS (ESI) m/z=575 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 99 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)F)C)C=C1)C | C20H18ClFN6
reactant | 2-(4-amino-phenyl)-ethanesulfonic acid methylamide | 0.25 mmol, 54 mg | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
product | 2-[4-(4-{[2-(4-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-ethanesulfonic acid methylamide hydrochloride | 90 mg, 59% | Cl.CNS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C)C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)F)C)C=C1 | InChI=1S/C29H31FN8O2S.ClH/c1-31-41(39,40)17-15-20-6-10-23(11-7-20)34-28-32-16-14-27(36-28)37(2)24-12-13-26-25(18-24)35-29(38(26)3)33-19-21-4-8-22(30)9-5-21;/h4-14,16,18,31H,15,17,19H2,1-3H3,(H,33,35)(H,32,34,36);1H
